US05344843
As in example 10, a solution of 4-[3-[4-acetyl-3-methoxy-2-propylphenoxy)propoxy]-alpha-oxobenzeneacetic acid ethyl ester (0.4 g) in methanol (30 mL) was treated with 2N sodium hydroxide (0.25 mL) was stirred at room temperature for 4 hours. Most of the solvents were removed in vacuo, water was added, then the mixture was acidified with 3N hydrochloric acid and extracted with dichloromethane-tetrahydrofuran (1:1). The dried (MgSO4) extracts were evaporated and the crude oil was purified by flash chromatography over silica gel (toluene-ethyl acetate-acetic acid; 75:25:0.5 increasing to 74:25:1) and crystallized from diethyl ether-hexane to provide 0.13 g of 4-[3-[4-acetyl-3-methoxy-2-propylphenoxy)propoxy]-alpha-oxobenzeneacetic acid, mp 94°-96° C.

reactant | 4-[3-[4-acetyl-3-methoxy-2-propylphenoxy)propoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.4 g | C(C)OC(C(C1=CC=C(C=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)OC)CCC)=O)=O | C25H30O7
reactant | sodium hydroxide | 2N, 0.25 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 4-[3-[4-acetyl-3-methoxy-2-propylphenoxy)propoxy]-alpha-oxobenzeneacetic acid | 0.13 g | C(C)(=O)C1=C(C(=C(OCCCOC2=CC=C(C=C2)C(C(=O)O)=O)C=C1)CCC)OC | C23H26O7
